US05885985
To a stirred solution of 4-phenylbutylamine, 2.9 g, 0.019 moles, in 100 ml THF was added 10 ml of triethylamine. To this was added 3-nitrobenzoyl chloride, 3.0 g, 0.016 moles and the reaction was stirred at room temperature for 18 hours. The triethylamine hydrochloride was removed by filtration. To the filtrate was added 100 ml of ethyl acetate, and the organic phase was then washed with 1N hydrochloric acid, 100 ml (twice), and then with 2N sodium hydroxide, 100ml (twice). The organic phase was dried over magnesium sulfate. The solvent was evaporated to yield an oil. This oil was dissolved in 100 ml of methanol and 20 ml of isopropanol/hydrochloric acid and to this solution was added 250 mg of 10% palladium on carbon. The reaction was hydrogenated for 3 hours. The catalyst was removed by filtration and the solvent was evaporated. The residue was crystallized from hot isopropanol and ethyl acetate, and was collected by filtration to yield 3.1 g of 3-(((4-phenylbutyl)amino)carbonyl)aniline hydrochloride.

reactant | 4-phenylbutylamine | C1(=CC=CC=C1)CCCCN | C10H15N
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | isopropanol hydrochloric acid | 20 ml | C(C)(C)O.Cl
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 3-(((4-phenylbutyl)amino)carbonyl)aniline hydrochloride | 3.1 g | Cl.C1(=CC=CC=C1)CCCCNC(=O)C=1C=C(N)C=CC1 | InChI=1S/C17H20N2O.ClH/c18-16-11-6-10-15(13-16)17(20)19-12-5-4-9-14-7-2-1-3-8-14;/h1-3,6-8,10-11,13H,4-5,9,12,18H2,(H,19,20);1H
